US09290468B2
4-Amino-3-fluoro-2-((2-fluorophenyl)amino)-5-((4-methoxybenzyl)thio)benzoate can be deprotected in the presence of acid (such as CF3COOH, HCOOH, CH3COOH and n-C5H11COOH, prefer CF3COOH) at certain temperature (20-75° C., prefer 25-75° C.) in appropriate aromatic aliphatic ether (such as anisole and phenetole, prefer anisole) for some time (1-12 h, prefer 3-10 h). Methyl 4-amino-3-fluoro-2-((2-fluorophenyl)amino)-5-mercaptobenzoate is obtained after conventional workup.

reactant | 4-Amino-3-fluoro-2-((2-fluorophenyl)amino)-5-((4-methoxybenzyl)thio)benzoate | NC1=C(C(=C(C(=O)[O-])C=C1SCC1=CC=C(C=C1)OC)NC1=C(C=CC=C1)F)F
reactant | CF3COOH | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCOOH | C(=O)O | CH2O2
reactant | n-C5H11COOH | C(CCCC)C(=O)O | C6H12O2
solvent | CH3COOH | CC(=O)O | C2H4O2
product | Methyl 4-amino-3-fluoro-2-((2-fluorophenyl)amino)-5-mercaptobenzoate | NC1=C(C(=C(C(=O)OC)C=C1S)NC1=C(C=CC=C1)F)F | C14H12F2N2O2S
